US06191124B1
A solution of 3-Methylimidazo[2,1-b]thiazole-5-methanol (FIG. C-5) (0.9 g) in DMF (10 mL) was diluted with toluene (200 mL), treated with MnO2 (3.0), and azeotropically distilled for 1.5 hours. The suspension was filtered and the filtrate was concentrated to 10 mL. The concentrate was diluted with ice water and the precipitated 3-Methylimidazo[2,1-b]thiazole-5-carboxaldehyde (FIG. C-6) (0.665 g) was filtered. An aliquot (225 mg) was recrystallized from ethyl acetate-hexane to yield pure 3-Methylimidazo[2,1-b]thiazole-5-carboxaldehyde (FIG. C-6) (202 mg), m.p. 163-165°.

reactant | 3-Methylimidazo[2,1-b]thiazole-5-methanol | 0.9 g | CC=1N2C(SC1)=NC=C2CO | C7H8N2OS
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | MnO2 | O=[Mn]=O
product | 3-Methylimidazo[2,1-b]thiazole-5-carboxaldehyde | 202 mg | CC=1N2C(SC1)=NC=C2C=O | C7H6N2OS
